US06239142B1
N-(4-Chlorobenzyl)-2-iodo-7-isopropyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide
To a solution of N-(4-chlorobenzyl)-4-hydroxy-2-iodothieno-[2,3-b]pyridine-5-carboxamide (Example No. 2) (2.00 g) in DMF (14 mL) are added K2CO3 (1.76 g) and 2-bromopropane (1.19 mL). The reaction is heated to 90° C. and stirred for 18 h. The reaction mixture is concentrated in vacuo. The resulting residue is partitioned between H2O (100 mL) and CH2Cl2 (200 mL). The aqueous layer is extracted with CH2Cl2 (3×150 mL). The combined organic layers are dried with MgSO4, filtered and concentrated in vacuo. The resulting yellow solid is purified via column chromatography (CH2Cl2, CH2Cl2:CH3OH; 99:1). Fractions homogeneous by TLC are combined and concentrated in vacuo to yield a yellow solid. This material is recrystallized from ethanol then methanol to yield 0.808 g (39%) of the title compound as an off-white solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-2-iodothieno-[2,3-b]pyridine-5-carboxamide | 2.00 g | ClC1=CC=C(CNC(=O)C=2C(=C3C(=NC2)SC(=C3)I)O)C=C1 | C15H10ClIN2O2S
reactant | K2CO3 | 1.76 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromopropane | 1.19 mL | BrC(C)C | C3H7Br
solvent | DMF | 14 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-2-iodo-7-isopropyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | 0.808 g, 39% | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C(C)C)SC(=C3)I)=O)C=C1 | C18H16ClIN2O2S
